US06242432B1
(S)-1-[(1,1-dimethylethyl)amino]-3-{[4-(4-morpholinyl)-1,2,5-thiadiazol-3-yl]oxy}-2-propanol hydrochloride.
0.8 ml of a 7M HCl solution in isopropanol was added dropwise to a magnetically stirred solution of timolol (1.4 g) in isopropanol (30 ml). The solution was stirred for 30 minutes. The reaction mixture was freed of the solvent at reduced pressure. 1.47 g of pure product was obtained (yield 91%).

reactant | HCl | 7M | Cl | ClH
reactant | timolol | 1.4 g | CC(C)(C)NC[C@@H](COC=1C(=NSN1)N2CCOCC2)O | C13H24N4O3S
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | (S)-1-[(1,1-dimethylethyl)amino]-3-{[4-(4-morpholinyl)-1,2,5-thiadiazol-3-yl]oxy}-2-propanol hydrochloride | 1.47 g, yield 91% | Cl.CC(C)(C)NC[C@@H](COC1=NSN=C1N1CCOCC1)O | InChI=1S/C13H24N4O3S.ClH/c1-13(2,3)14-8-10(18)9-20-12-11(15-21-16-12)17-4-6-19-7-5-17;/h10,14,18H,4-9H2,1-3H3;1H/t10-;/m0./s1
